US08541573B2
N-((1-(2-(2-(N-Cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)ethoxy)acetyl)-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)-methyl)-isonicotinamide
To a solution of 2-(2-(N-cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)ethoxy)acetic acid AC7 (0.225 mmol) in dichloromethane (10 ml/mmol) was added diisopropyl ethylamine (4 equiv.) at 0° C. followed by the addition of HOBT (1.0 equiv.) and EDCI (1.5 equiv.). The resultant solution was stirred at 25° C. for 15 min. It was again cooled to 0° C. and a solution of N-((4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)isonicotinamide dihydrochloride AM12 (1.2 equiv.) in DMF (2 ml) was added. The reaction mixture was stirred for 16 h at 25° C. The mixture was diluted with dichloromethane, washed with saturated ammonium chloride solution, brine, saturated sodium bicarbonate and finally again with brine. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure to yield the crude product which was purified by column chromatography. Yield: 60%. MS, Rt=2.8 min, m/z 683.5 [MH]+.

reactant | 2-(2-(N-cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)ethoxy)acetic acid | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CCOCC(=O)O | C16H23NO6S
reactant | diisopropyl ethylamine | 4 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 1.0 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.5 equiv. | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-((4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)isonicotinamide dihydrochloride | Cl.Cl.C1(CC1)N1CCN(CC1)C1(CCNCC1)CNC(C1=CC=NC=C1)=O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-((1-(2-(2-(N-Cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)ethoxy)acetyl)-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)-methyl)-isonicotinamide | Yield: 60% | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CCOCC(=O)N1CCC(CC1)(N1CCN(CC1)C1CC1)CNC(C1=CC=NC=C1)=O | C35H50N6O6S
